US06642226B2
Rac-cis-(3,5-Bis-trifluoromethyl-phenyl)-{4-[2-(2-methoxy-ethylamino)-phenyl]-3-phenyl-piperidin-1-yl}-methanone
The title compound, MS: m/e=551.1 (M+), was prepared in accordance with the general method of example 10 from rac-cis-(3,5-bis-trifluoromethyl-phenyl)-[4-(2-chloro-phenyl)-3-phenyl-piperidin-1-yl]-methanone, 2-methoxy-ethylamine and biphenyl-2-yl-dicyclohexyl-phosphane as ligand.

reactant | rac-cis-(3,5-bis-trifluoromethyl-phenyl)-[4-(2-chloro-phenyl)-3-phenyl-piperidin-1-yl]-methanone | FC(C=1C=C(C=C(C1)C(F)(F)F)C(=O)N1C[C@H]([C@H](CC1)C1=C(C=CC=C1)Cl)C1=CC=CC=C1)(F)F | C26H20ClF6NO
reactant | 2-methoxy-ethylamine | COCCN | C3H9NO
reactant | biphenyl-2-yl-dicyclohexyl-phosphane | C1(=C(C=CC=C1)P(C1CCCCC1)C1CCCCC1)C1=CC=CC=C1 | C24H31P
product | Rac-cis-(3,5-Bis-trifluoromethyl-phenyl)-{4-[2-(2-methoxy-ethylamino)-phenyl]-3-phenyl-piperidin-1-yl}-methanone | FC(C=1C=C(C=C(C1)C(F)(F)F)C(=O)N1C[C@H]([C@H](CC1)C1=C(C=CC=C1)NCCOC)C1=CC=CC=C1)(F)F | C29H28F6N2O2
